US06784183B2
Step a: N-(3-Chloro-4-methylphenyl)-N′-(4-chloro-3-nitrophenyl)urea
A solution of 29.8 mmol (5 g) of 3-chloro-4-methylphenyl isocyanate in 90 ml of toluene is heated to 70° C., and 29.8 mmol (5.15 g) of 4-chloro-3-nitroaniline are poured in. The solution is heated at reflux for 24 hours. The reaction mixture is cooled using ice, and the precipitate formed is filtered off and then rinsed with diethyl ether to yield the expected product.

reactant | 3-chloro-4-methylphenyl isocyanate | 29.8 mmol, 5 g | ClC=1C=C(C=CC1C)N=C=O | C8H6ClNO
reactant | 4-chloro-3-nitroaniline | 29.8 mmol, 5.15 g | ClC1=C(C=C(N)C=C1)[N+](=O)[O-] | C6H5ClN2O2
solvent | toluene | 90 ml | C1(=CC=CC=C1)C | C7H8
product | N-(3-Chloro-4-methylphenyl)-N′-(4-chloro-3-nitrophenyl)urea | ClC=1C=C(C=CC1C)NC(=O)NC1=CC(=C(C=C1)Cl)[N+](=O)[O-] | C14H11Cl2N3O3
